US05571810
A solution of 2-(4-fluorophenyl)-3-[4-(methylthio)phenyl]thiophene (1.0 g) and trifluoroacetic anhydride (2 ml) in dichloroethane (5 ml) was heated in a steel bomb at 120° C. overnight. The mixture was washed with an aqueous solution of sodium bicarbonate and water, dried and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and toluene (2:1) to give yellow crystals of 2-(4-fluorophenyl)-3-[4-(methylthio)phenyl]-5-(trifluoroacetyl)thiophene (0.87 g).

reactant | 2-(4-fluorophenyl)-3-[4-(methylthio)phenyl]thiophene | 1.0 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)SC | C17H13FS2
reactant | trifluoroacetic anhydride | 2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | 2-(4-fluorophenyl)-3-[4-(methylthio)phenyl]-5-(trifluoroacetyl)thiophene | 0.87 g | FC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)SC)C(C(F)(F)F)=O | C19H12F4OS2
